US07456164B2
N-[(4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]-N-methylamine
To a stirred solution of tert-butyl [4-(4-[(1-isopropylpiperidin-4-yl)oxy]phenyl)tetrahydro-2H-pyran-4-yl]methylcarbamate (532 mg, 1.23 mmol) in THF (3.5 ml) at 0° C. was added dropwise a solution of LiAlH4 (1.0M solution in Et2O, 3.69 ml, 3.69 mmol). Reaction stirred for 60 hours at ambient temperature before a further dropwise addition of LiAlH4 (1.0M solution in Et2O, 0.6 ml, 0.6 mmol). Heated at 40° C. until reaction complete. The reaction was then cooled to 0° C., water (0.2 ml) was added dropwise followed by sodium hydroxide (2.0M, 0.2 ml) and water (0.6 ml). 1% methanol in dichloromethane (10 ml) was added and the mixture filtered through a short pad of arbocel, eluting with 1% methanol in dichloromethane (25 ml). The organic washings were dried over Na2SO4 and concentrated in vacuo to give the title compound as a solid (399 mg, 94%). 1H NMR (400 MHz, CDCl3) δ 7.20 (d, 2H), 7.88 (d, 2H), 4.22-4.34 (m, 1H), 3.70-3.80 (m, 2H), 3.60-4.01 (d, 2H), 2.70-2.88 (m, 3H), 2.64 (s, 2H), 2.32-2.44 (m, 2H) 2.24 (s, 3H), 2.10-2.18 (M, 2H), 1.99-2.08 (m, 2H), 1.79-1.96 (m, 4H), 1.03 (d, 6H).

reactant | tert-butyl [4-(4-[(1-isopropylpiperidin-4-yl)oxy]phenyl)tetrahydro-2H-pyran-4-yl]methylcarbamate | 1.23 mmol, 532 mg | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CNC(OC(C)(C)C)=O | C25H40N2O4
reactant | LiAlH4 | 3.69 mmol, 1.0M, 3.69 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LiAlH4 | 0.6 mmol, 1.0M, 0.6 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.2 ml | O | H2O
reactant | sodium hydroxide | 2.0M, 0.2 ml | [OH-].[Na+]
reactant | water | 0.6 ml | O | H2O
solvent | THF | 3.5 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-[(4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]-N-methylamine | 399 mg, 94% | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CNC | C21H34N2O2
